US05849735
5-[(4-Benzoylbenzoyl)]-4,10-dihydro-5H-thieno[3,2-c][1]benzazepine
As described for Example 26, 4,10dihydro-5H-thieno[3,2-c][1]benzazepine is reacted with 4-(benzoyl)benzoyl chloride to give the product as a solid.

reactant | 4,10dihydro-5H-thieno[3,2-c][1]benzazepine | S1C=CC=2CNC3=C(CC21)C=CC=C3 | C12H11NS
reactant | 4-(benzoyl)benzoyl chloride | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)Cl)C=C1 | C14H9ClO2
product | 5-[(4-Benzoylbenzoyl)]-4,10-dihydro-5H-thieno[3,2-c][1]benzazepine | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC4=C2C=CC=C4)SC=C3)C=C1 | C26H19NO2S
